US06472386B1
Synthesis of N,N′-bis[(5-(3,4,5-Trimethoxyphenyl)isoxazol-3-yl)methyl]homopiperazine
3-Chloromethyl-5-(3,4,5-trimethoxyphenyl)isoxazole (170 mg) and homopiperazine (30 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 3-Chloromethyl-5-(3,4,5-trimethoxyphenyl)isoxazole | 170 mg | ClCC1=NOC(=C1)C1=CC(=C(C(=C1)OC)OC)OC | C13H14ClNO4
reactant | homopiperazine | 30 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[(5-(3,4,5-Trimethoxyphenyl)isoxazol-3-yl)methyl]homopiperazine | COC=1C=C(C=C(C1OC)OC)C1=CC(=NO1)CN1CCN(CCC1)CC1=NOC(=C1)C1=CC(=C(C(=C1)OC)OC)OC | C31H38N4O8
